US04906634
N,N-Diethyl-2-[(4-nitrophenyl)thio]ethaneamine
To a solution of 7.0 g (45 mmol) of 4-nitrothiophenol and 22.5 mL of 4N aqueous potassium hydroxide in 40 mL of dimethylformamide add a solution of 9.53 g (55 mmol) of 2-chloro-N,N-diethylethanamine hydrochloride in 40 mL of dimethylformamide. Heat the reaction mixture for about 3 h at 100° C. After this time, cool the mixture to room temperature and add 150 mL of water. Extract th aqueous mixture with 3×200 mL of methylene chloride. Combine the methylene chloride extracts and extract these with 200 mL of 1N aqueous hydrochloric acid. Make the acid extract basic with saturated aqueous sodium bicarbonate solution

reactant | 4-nitrothiophenol | 45 mmol, 7.0 g | [N+](=O)([O-])C1=CC=C(C=C1)S | C6H5NO2S
reactant | potassium hydroxide | 4N, 22.5 mL | [OH-].[K+]
reactant | 2-chloro-N,N-diethylethanamine hydrochloride | 55 mmol, 9.53 g | Cl.ClCCN(CC)CC
reactant | water | 150 mL | O | H2O
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 40 mL | CN(C=O)C | C3H7NO
product | N,N-Diethyl-2-[(4-nitrophenyl)thio]ethaneamine | C(C)N(CCSC1=CC=C(C=C1)[N+](=O)[O-])CC | C12H18N2O2S
